US08383652B2
40 mg (0.08 mmol) of methyl (Z)-3-[2-butoxy-3′-(1-methyl-3-phenethylureido)biphenyl-4-yl]-2-ethoxyacrylate are placed in 0.5 mL of a 5/1/1 by volume mixture of tetrahydrofuran/methanol/water, 17 mg (0.4 mmol) of lithium hydroxide monohydrate are added and the reaction medium is stirred at room temperature for 18 hours. The reaction medium is acidified to pH 3 with acetic acid and then extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate, filtered and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with an 85/15 and then 60/40 heptane/ethyl acetate mixture. 16 mg (34%) of (Z)-3-[2-butoxy-3′-(1-methyl-3-phenethylureido)biphenyl-4-yl]-2-ethoxyacrylic acid are obtained.

reactant | methyl (Z)-3-[2-butoxy-3′-(1-methyl-3-phenethylureido)biphenyl-4-yl]-2-ethoxyacrylate | 0.08 mmol, 40 mg | C(CCC)OC1=C(C=CC(=C1)\C=C(\C(=O)OC)/OCC)C1=CC(=CC=C1)N(C(=O)NCCC1=CC=CC=C1)C | C32H38N2O5
reactant | tetrahydrofuran methanol water | O1CCCC1.CO.O
reactant | lithium hydroxide monohydrate | 0.4 mmol, 17 mg | O.[OH-].[Li+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (Z)-3-[2-butoxy-3′-(1-methyl-3-phenethylureido)biphenyl-4-yl]-2-ethoxyacrylic acid | 16 mg, 34% | C(CCC)OC1=C(C=CC(=C1)\C=C(\C(=O)O)/OCC)C1=CC(=CC=C1)N(C(=O)NCCC1=CC=CC=C1)C | C31H36N2O5
